US08865623B2
To a solution of 5-bromo-2-ethylphenyllead triacetate (16.34 g, 28.80 mmol) in chloroform (160 ml) is added bicyclo[3.2.1]octane-2,4-dione (3.61 g, 26.10 mmol) and 4-dimethylaminopyridine (16.63 g, 131 mmol), and the reaction mixture is stirred at room temperature for 5 minutes. Next toluene (40 ml) is added, and the mixture is stirred at 80° C. for 1 hour (pre-heated oil bath). The reaction mixture is allowed to cool to room temperature, quenched with 1M hydrochloric acid, and the organic phase separated. The aqueous phase is further washed with dichloromethane (×2), and again the phases are separated. All organics are combined then evaporated under reduced pressure to give a crude oil, which is purified by flash column chromatography on silica gel (30% to 50% ethyl acetate/iso-hexane eluant ratio, then 10% methanol/dichloromethane eluant ratio). The resulting gum is then recrystalised from dichloromethane/hexane to afford 3-(5-bromo-2-ethylphenyl)bicyclo[3.2.1]octane-2,4-dione as a cream coloured solid.

reactant | 5-bromo-2-ethylphenyllead triacetate | 28.80 mmol, 16.34 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].BrC=1C=CC(=C(C1)[Pb+3])CC
reactant | bicyclo[3.2.1]octane-2,4-dione | 26.10 mmol, 3.61 g | C12C(CC(C(CC1)C2)=O)=O | C8H10O2
reactant | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | chloroform | 160 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | 4-dimethylaminopyridine | 131 mmol, 16.63 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-(5-bromo-2-ethylphenyl)bicyclo[3.2.1]octane-2,4-dione | BrC=1C=CC(=C(C1)C1C(C2CCC(C1=O)C2)=O)CC | C16H17BrO2
